US08865713B2
Step A: 5-Chloro-6-nitro-1,3-dihydro-benzoimidazol-2-one.
To a solution of 4-chloro-5-nitro-benzene-1,2-diamine (8.34 g, 44.4 mmol) and THF (625 mL) was added carbonyl diimidazole (8.65 g, 53.3 mmol) at 0° C. The reaction mixture was allowed to warm to 23° C. and was stirred for 20 h at this temperature. The reaction mixture was concentrated to a volume of 300 mL and 500 mL aqueous 1M HCl was added, followed by water (total volume 2 L). The resulting suspension was cooled at 0° C. for 2 h, and the precipitate was collected and dried on the filter. It was then triturated with cold EtOAc (20 mL) and rinsed EtOAc (2×5 mL) to yield the titled compound (7.26 g, 76% yield). MS (ESI/CI): mass calcd. for C7H4ClN3O3, 213.0; m/z found, 214.0 [M+H]+.

reactant | 4-chloro-5-nitro-benzene-1,2-diamine | 44.4 mmol, 8.34 g | ClC=1C=C(C(=CC1[N+](=O)[O-])N)N | C6H6ClN3O2
reactant | carbonyl diimidazole | 53.3 mmol, 8.65 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | THF | 625 mL | C1CCOC1 | C4H8O
product | 5-Chloro-6-nitro-1,3-dihydro-benzoimidazol-2-one | 7.26 g, 76% yield | ClC1=CC2=C(NC(N2)=O)C=C1[N+](=O)[O-] | C7H4ClN3O3
